US08809539B2
A mixture of piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl ester (2.85 g 7.85 mmol), potassium carbonate (1.4 g 10 mmol) and bromopinacolone (1.73 mL 17 mmol) in butan-2-one is stirred at room temperature for 6 h. The mixture is washed with water, dried over magnesium sulphate and concentrated under reduced pressure. After purification by column chromatography, the product is crystallized in heptane to give piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester melting at 60° C.

reactant | piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl ester | 7.85 mmol, 2.85 g | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)O | C19H25NO6
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromopinacolone | 17 mmol, 1.73 mL | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | butan-2-one | CC(CC)=O | C4H8O
product | piperidine-1,3,3-tricarboxylic acid 1-tert-butyl 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester | CC(C(COC(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)=O)(C)C | C25H35NO7
